US06953806B2
In analogy to the method described in example 12.1, trans-[4-(4-bromo-butoxymethyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester was reacted with piperidine in N,N-dimethylacetamide at 50° C. for 2 hours to yield trans-methyl-[4-(4-piperidin-1-yl-butoxymethyl)-cyclohexylmethyl]-carbamic acid 4-chloro-phenyl ester as colorless viscous oil, MS: 451 (MH+, 1Cl).

reactant | trans-[4-(4-bromo-butoxymethyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)COCCCCBr)=O | C20H29BrClNO3
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-methyl-[4-(4-piperidin-1-yl-butoxymethyl)-cyclohexylmethyl]-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C[C@@H]1CC[C@H](CC1)COCCCCN1CCCCC1)C)=O | C25H39ClN2O3
